US09079911B2
(5-(4,6-Dimethylpyrimidin-2-yl)hexahydropyrrolo[3,4-c]pyrrol-2(1H)-yl)(4-fluoro-2-(pyridin-2-yl)phenyl)methanone
The title compound was prepared in a manner analogous to Example 367 substituting (5-(4,6-dimethylpyrimidin-2-yl)hexahydropyrrolo[3,4-c]pyrrol-2(1H)-yl)(4-fluoro-2-iodophenyl)methanone for (5-(4,6-dimethylpyrimidin-2-yl)hexahydropyrrolo[3,4-c]pyrrol-2(1H)-yl)(3-fluoro-2-iodophenyl)methanone, with the addition of catalytic CuI, substituting dioxane for DME, heating 130° C. in microwave for 60 min. The reaction was filtered through celite, rinsed with EtOAc and then concentrated and purified on RP agilent HPLC and fractions lyophilized. MS (ESI) mass calcd. for C24H24FN5O, 417.20; m/z found, 418.2 [M+H]+.

reactant | (5-(4,6-dimethylpyrimidin-2-yl)hexahydropyrrolo[3,4-c]pyrrol-2(1H)-yl)(4-fluoro-2-iodophenyl)methanone | CC1=NC(=NC(=C1)C)N1CC2C(C1)CN(C2)C(=O)C2=C(C=C(C=C2)F)I | C19H20FIN4O
reactant | (5-(4,6-dimethylpyrimidin-2-yl)hexahydropyrrolo[3,4-c]pyrrol-2(1H)-yl)(3-fluoro-2-iodophenyl)methanone | CC1=NC(=NC(=C1)C)N1CC2C(C1)CN(C2)C(=O)C2=C(C(=CC=C2)F)I | C19H20FIN4O
catalyst | CuI | [Cu]I
solvent | DME | COCCOC | C4H10O2
product | (5-(4,6-Dimethylpyrimidin-2-yl)hexahydropyrrolo[3,4-c]pyrrol-2(1H)-yl)(4-fluoro-2-(pyridin-2-yl)phenyl)methanone | CC1=NC(=NC(=C1)C)N1CC2C(C1)CN(C2)C(=O)C2=C(C=C(C=C2)F)C2=NC=CC=C2 | C24H24FN5O
